US07459562B2
C) 4-(4-Amino-2-fluorophenoxy)-N-benzylpyridin-2-amine, hydrochloride salt
Anhydrous HCl in dioxane (4N, 2.00 mL, 8.00 mmol, 165 eq) was added to tert-butyl 4-(2-(benzylamino)pyridin-4-yloxy)-3-fluorophenylcarbamate (0.020 g, 0.0489 mmol, 1.0 eq) and the reaction mixture was stirred at room temperature for 12 h. The reaction mixture was concentrated in vacuo to afford the title compound (0.017 g, 100%) a solid that was used without further purification. MS(ESI+) m/z 310 (M+H)+; HRMS(ESI+) calcd.: 310.1356, found: 310.1364.

reactant | HCl | Cl | ClH
reactant | dioxane | 8.00 mmol, 4N, 2.00 mL, 165 eq | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(2-(benzylamino)pyridin-4-yloxy)-3-fluorophenylcarbamate | 0.0489 mmol, 0.020 g, 1.0 eq | C(C1=CC=CC=C1)NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(OC(C)(C)C)=O)F | C23H24FN3O3
product | 4-(4-Amino-2-fluorophenoxy)-N-benzylpyridin-2-amine, hydrochloride salt | 0.017 g, 100% | Cl.NC1=CC(=C(OC2=CC(=NC=C2)NCC2=CC=CC=C2)C=C1)F | InChI=1S/C18H16FN3O.ClH/c19-16-10-14(20)6-7-17(16)23-15-8-9-21-18(11-15)22-12-13-4-2-1-3-5-13;/h1-11H,12,20H2,(H,21,22);1H
